US07566784B2
F) 3-(4-Nitrophenyl)-1H-pyrrolo[3,2-c]pyridin-4-amine
Tetrakis(triphenylphosphine)palladium(0) (0.011 g, 0.009 mmol, 0.1 eq) was added to ethyl 3-iodo-1H-pyrrolo[3,2-c]pyridin-4-ylcarbamate (0.031 g, 0.094 mmol, 1.0 eq), sodium carbonate (0.07g, 0.66 mmol, 7.0 eq) and 4-nitrophenyl boronic acid (0.055g, 0.33 mmol, 3.5 eq) in a degassed solution of 1/1 dioxane/water (1 mL) at room temperature. The reaction mixture was heated to 80° C. for 5 h. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water and the pH adjusted to 7.0 with dilute aqueous HCl. The solution was extracted with 10/1 CHCl3/MeOH, the combined organic extracts dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by loading it onto a 1.5 g Varian SCX cationic exchange cartridge (eluting sequentially with 1/1 DCM/MeOH, MeOH, 0.1N NH3 in MeOH, and to elute the product 1.0 N NH3 in MeOH) and the appropriate fractions were isolated and concentrated in vacuo to afford the product (0.006 g, 26%) as a solid. MS(ESI+) m/z 255 (M+H)+. Calculated: 255.0882, found: 255.0887.

reactant | ethyl 3-iodo-1H-pyrrolo[3,2-c]pyridin-4-ylcarbamate | 0.094 mmol, 0.031 g, 1.0 eq | IC1=CNC2=C1C(=NC=C2)NC(OCC)=O | C10H10IN3O2
reactant | sodium carbonate | 0.66 mmol, 0.07g, 7.0 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-nitrophenyl boronic acid | 0.33 mmol, 0.055g, 3.5 eq | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 0.011 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane water | 1 mL | O1CCOCC1.O
product | 3-(4-Nitrophenyl)-1H-pyrrolo[3,2-c]pyridin-4-amine | 0.006 g, 26% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CNC2=C1C(=NC=C2)N | C13H10N4O2
